US04861780
(d) 2-(2-Morpholinoethylthio)-3-phenyl-4(3H)-quinazolinone
The title compound was prepared in a yield of 49.8%, using 2-mercapto-3-phenyl-4(3H)-quinazolinone in place of 3-isobutyl-2-mercapto-4(3H)-quinazolinone and N-(2chloroethyl)morpholine in place of 2-chloromethylpyridine hydrochloride.

reactant | 2-mercapto-3-phenyl-4(3H)-quinazolinone | SC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C14H10N2OS
reactant | N-(2chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
product | 2-(2-Morpholinoethylthio)-3-phenyl-4(3H)-quinazolinone | yield of 49.8% | O1CCN(CC1)CCSC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C20H21N3O2S
